US05486638
1-Bromo-3-triethylsilanyl-benzene is prepared in a manner analogous to the procedure described in examples 1 and 1a utilizing 1,3-dibromobenzene and chlorotriethylsilane as the ClSiR1R2R3 compound.

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | chlorotriethylsilane | Cl[Si](CC)(CC)CC | C6H15ClSi
product | 1-Bromo-3-triethylsilanyl-benzene | BrC1=CC(=CC=C1)[Si](CC)(CC)CC | C12H19BrSi
